US05021430
A solution of 3.3g of O-benzyl-(S)-serine and 1.8 g of sodium carbonate in 30 ml of water at 0° is added to 2.2 g of 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyryl chloride and the mixture is stirred at room temperature for 4 hours. The mixture is extracted with ether, and the aqueous layer is acidified with 2N hydrochloric acid. The acidic solution is extracted with ethyl acetate, washed with saturated brine, dried (magnesium sulfate), filtered and concentrated to yield N-[4-ethoxycarbonyl-(S,S)-2,4-di-benzylbutyryl]-O-benzyl-(L)-serine.

reactant | O-benzyl-(S)-serine | 3.3g | C(C1=CC=CC=C1)OC[C@H](N)C(=O)O | C10H13NO3
reactant | sodium carbonate | 1.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-ethoxycarbonyl-(S,S)-2,4-dibenzylbutyryl chloride | 2.2 g | C(C)OC(=O)[C@@H](C[C@H](C(=O)Cl)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23ClO3
solvent | water | 30 ml | O | H2O
product | N-[4-ethoxycarbonyl-(S,S)-2,4-di-benzylbutyryl]-O-benzyl-(L)-serine | C(C)OC(=O)[C@@H](C[C@H](C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C31H35NO6
